US08541404B2
6-Bromo-7-fluoro-3,4,4a,8a-tetrahydro-1H-quinolin-2-one
This intermediate was obtained according to general procedure I from 7-fluoro-3,4,4a,8a-tetrahydro-1H-quinolin-2-one (92 mg, 0.56 mmol) and NBS (104 mg, 0.58 mmol) after flash chromatography on silica gel (hexanes/ethyl acetate, 5/1, Rf=0.27) as white solid (120 mg, 0.49 mmol, 88%).

reactant | 7-fluoro-3,4,4a,8a-tetrahydro-1H-quinolin-2-one | 0.56 mmol, 92 mg | FC=1C=CC2CCC(NC2C1)=O | C9H10FNO
reactant | NBS | 0.58 mmol, 104 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | 6-Bromo-7-fluoro-3,4,4a,8a-tetrahydro-1H-quinolin-2-one | BrC1=CC2CCC(NC2C=C1F)=O | C9H9BrFNO
